US03930836
2-Chloroethyl isobutane-sulfonate
A mixture was formed containing 6.7 ml. of ethylene chlorohydrin, 70 ml. of ether and 15.6 g. of isobutane sulfonyl chloride. Then, 14 ml. of triethylamine was added dropwise to the mixture with stirring in an ice bath over a period of 30 minutes at 12°-14°C. While stirring the mixture was allowed to warm to 23°C. (1 hour) and was then washed with water (100 ml.), dried over magnesium sulfate and evaporated to yield 19.7 g. of a colorless oil. nD30 1.4502.

reactant | ethylene chlorohydrin | C(CO)Cl | C2H5ClO
reactant | ether | CCOCC | C4H10O
reactant | isobutane sulfonyl chloride | C(C(C)C)S(=O)(=O)Cl | C4H9ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloroethyl isobutane-sulfonate | C(C(C)C)S(=O)(=O)OCCCl | C6H13ClO3S
